US07199147B2
Trifluoroacetic acid (5 ml) was added to a dichloromethane solution (5 ml) of tert-butyl 4-{1-(2-tetrahydropyranyl)-1H-indazol-5-ylamino}benzoate (205 mg, 0.521 mmol), and the resulting mixture was stirred at room temperature for 3 hours. The mixture was added dropwise to saturated aqueous sodium hydrogencarbonate solution/ethyl acetate and then extracted with ethyl acetate. The extract solution was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, and then distilled under reduced pressure to remove the solvent, whereby a crude product was obtained. The crude product was washed by the addition of chloroform containing a small amount of methanol, and then was collected by filtration to obtain 4-(1H-indazole-5-ylamino)benzoic acid (46 mg, 35%).

reactant | Trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | tert-butyl 4-{1-(2-tetrahydropyranyl)-1H-indazol-5-ylamino}benzoate | 0.521 mmol, 205 mg | O1C(CCCC1)N1N=CC2=CC(=CC=C12)NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C23H27N3O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1H-indazole-5-ylamino)benzoic acid | 46 mg, 35% | N1N=CC2=CC(=CC=C12)NC1=CC=C(C(=O)O)C=C1 | C14H11N3O2
